* c:\users\avinash\desktop\simulations\1bit\1bit.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m1 net-_m1-pad1_ lsb gnd gnd CMOSN W=0.36u L=0.18u M=1
m3 net-_m1-pad1_ lsb vdd vdd CMOSP W=0.9u L=0.18u M=1
m7 net-_m11-pad3_ net-_m1-pad1_ net-_m7-pad3_ net-_m7-pad3_ CMOSP W=0.9u L=0.18u M=1
m9 net-_m7-pad3_ lsb net-_m11-pad3_ net-_m11-pad3_ CMOSN W=0.36u L=0.18u M=1
m11 net-_m11-pad1_ lsb net-_m11-pad3_ net-_m11-pad3_ CMOSP W=0.9u L=0.18u M=1
m5 net-_m11-pad3_ net-_m1-pad1_ net-_m11-pad1_ net-_m11-pad1_ CMOSN W=0.36u L=0.18u M=1
m13 net-_m13-pad1_ msb gnd gnd CMOSN W=0.36u L=0.18u M=1
m14 net-_m13-pad1_ msb vdd vdd CMOSP W=0.9u L=0.18u M=1
m16 vout net-_m13-pad1_ net-_m11-pad3_ net-_m11-pad3_ CMOSP W=0.9u L=0.18u M=1
m17 net-_m11-pad3_ msb vout vout CMOSN W=0.36u L=0.18u M=1
m18 net-_m10-pad3_ msb vout vout CMOSP W=0.9u L=0.18u M=1
m15 vout net-_m13-pad1_ net-_m10-pad3_ net-_m10-pad3_ CMOSN W=0.36u L=0.18u M=1
m2 net-_m2-pad1_ lsb gnd gnd CMOSN W=0.36u L=0.18u M=1
m4 net-_m2-pad1_ lsb vdd vdd CMOSP W=0.9u L=0.18u M=1
m8 net-_m10-pad3_ net-_m2-pad1_ net-_m10-pad1_ net-_m10-pad1_ CMOSP W=0.9u L=0.18u M=1
m10 net-_m10-pad1_ lsb net-_m10-pad3_ net-_m10-pad3_ CMOSN W=0.36u L=0.18u M=1
m12 net-_m12-pad1_ lsb net-_m10-pad3_ net-_m10-pad3_ CMOSP W=0.9u L=0.18u M=1
m6 net-_m10-pad3_ net-_m2-pad1_ net-_m12-pad1_ net-_m12-pad1_ CMOSN W=0.36u L=0.18u M=1
r1  /vref net-_m7-pad3_ 0.625k
r2  net-_m7-pad3_ net-_m11-pad1_ 1.25k
r4  net-_m10-pad1_ net-_m12-pad1_ 1.25k
r3  net-_m11-pad1_ net-_m10-pad1_ 1.25k
r5  net-_m12-pad1_ gnd 0.625k
* u3  vout plot_v1
* u2  msb plot_v1
* u1  lsb plot_v1
v1 /vref gnd  dc 5
v2  lsb gnd pwl(0 0 0.99 0 1 5 1.99 5 2 0 2.99 0 3 5 3.99 5 4 0)
v3  msb gnd pwl(0 0 1.99 0 2 5 3.99 5 4 0)
.tran 100e-03 8e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
plot v(msb)
plot v(lsb)
.endc
.end
